US08791129B2
Yield: 230 mg (83%) of [2-(2-bromo-4,5-difluorobenzyloxy)ethyl]dimethylamine;
88 mg of [3-(2-bromo-4,5-difluorobenzyloxy)propyl]dimethylamine, 80 mg of potassium carbonate, 5 μl of water and 12 mg of [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride are added to a solution of 150 mg of [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone in 2 ml of ethanol under argon. The mixture is heated at 120° C. for 60 min. The solid is subsequently filtered off through kieselguhr with suction, and the filtrate is evaporated to dryness in vacuo. The residue is dissolved in 1 ml of DMSO and chromatographed by means of preparative HPLC (Agilent). The product fractions obtained are subsequently evaporated and freeze-dried.

reactant | [3-(2-bromo-4,5-difluorobenzyloxy)propyl]dimethylamine | 88 mg | BrC1=C(COCCCN(C)C)C=C(C(=C1)F)F | C12H16BrF2NO
reactant | potassium carbonate | 80 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 5 μl | O | H2O
reactant | [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 150 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C23H25BN4O3
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride | 12 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [2-(2-bromo-4,5-difluorobenzyloxy)ethyl]dimethylamine | BrC1=C(COCCN(C)C)C=C(C(=C1)F)F | C11H14BrF2NO
